US07759382B2
A solution of 0.14 g (0.4 mmol) of 2-amino-N-[2-tert-butyl-5-(1-methyl-4-phenylpiperidin-4-yl)-2H-pyrazol-3-yl]propionamide and 0.08 g (0.4 mmol) of (S)-3,5-difluoromandelic acid (Garofalo, et al. Bioorg. Med. Chem. Lett. 2002, 12, 3051) in 5.0 mL of THF was stirred at rt as 0.06 g (0.4 mmol) of HOBT and 0.08 mL (0.7 mmol) of NMM was added followed by 0.90 g (0.5 mmol) of EDC.HCl. After 16 h, the reaction was quenched with 1M HCl and extracted with EtOAc. The organic layer washed with sat. aq. NaHCO3, dried over MgSO4 and concentrated. Purification on silica gel using 4% Et3N-MeOH as eluant afforded N-[2-tert-butyl-5-(1-methyl-4-phenylpiperidin-4-yl)-2H-pyrazol-3-yl]-2-[2-(3,5-difluorophenyl)-2-hydroxyacetylamino]propionamide.

reactant | 2-amino-N-[2-tert-butyl-5-(1-methyl-4-phenylpiperidin-4-yl)-2H-pyrazol-3-yl]propionamide | 0.4 mmol, 0.14 g | NC(C(=O)NC=1N(N=C(C1)C1(CCN(CC1)C)C1=CC=CC=C1)C(C)(C)C)C | C22H33N5O
reactant | (S)-3,5-difluoromandelic acid | 0.4 mmol, 0.08 g | FC=1C=C([C@@H](C(=O)O)O)C=C(C1)F | C8H6F2O3
reactant | HOBT | 0.4 mmol, 0.06 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 0.7 mmol, 0.08 mL | CN1CCOCC1 | C5H11NO
reactant | EDC.HCl | 0.5 mmol, 0.90 g | CCN=C=NCCCN(C)C.Cl
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | N-[2-tert-butyl-5-(1-methyl-4-phenylpiperidin-4-yl)-2H-pyrazol-3-yl]-2-[2-(3,5-difluorophenyl)-2-hydroxyacetylamino]propionamide | C(C)(C)(C)N1N=C(C=C1NC(C(C)NC(C(O)C1=CC(=CC(=C1)F)F)=O)=O)C1(CCN(CC1)C)C1=CC=CC=C1 | C30H37F2N5O3
